US04980365
N-[2-(4-fluorophenyl)ethyl]-5,6-dimethoxy-1,2-benzisoxazole-3-propanamine hydrochloride
To 100 ml of dry DMF were added 2-(4-fluorophenyl)ethylamine hydrochloride (10 g) and milled K2CO3 (20 g). After five minutes of stirring, 3-(3-chloropropyl)-5,6-dimethoxy-1,2-benzisoxazole (6.4 g) and KI (0.01 g) were added.

reactant | 2-(4-fluorophenyl)ethylamine hydrochloride | 10 g | Cl.FC1=CC=C(C=C1)CCN
reactant | K2CO3 | 20 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-(3-chloropropyl)-5,6-dimethoxy-1,2-benzisoxazole | 6.4 g | ClCCCC1=NOC2=C1C=C(C(=C2)OC)OC | C12H14ClNO3
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N-[2-(4-fluorophenyl)ethyl]-5,6-dimethoxy-1,2-benzisoxazole-3-propanamine hydrochloride | Cl.FC1=CC=C(C=C1)CCNCCCC1=NOC2=C1C=C(C(=C2)OC)OC | InChI=1S/C20H23FN2O3.ClH/c1-24-19-12-16-17(23-26-18(16)13-20(19)25-2)4-3-10-22-11-9-14-5-7-15(21)8-6-14;/h5-8,12-13,22H,3-4,9-11H2,1-2H3;1H
